US04816461
3-Methyl-5,7-dinitrobenzothiophene
A solution of 0.8 mole of (2-acetyl-4,6-dinitrophenylthio)acetic acid in 1 liter of propionic acid is heated at the boiling point until the evolution of CO2 has ended (about 4 hours).

reactant | (2-acetyl-4,6-dinitrophenylthio)acetic acid | 0.8 mole | C(C)(=O)C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])SCC(=O)O | C10H8N2O7S
reactant | CO2 | C(=O)=O | CO2
solvent | propionic acid | 1 liter | C(CC)(=O)O | C3H6O2
product | 3-Methyl-5,7-dinitrobenzothiophene | CC1=CSC2=C1C=C(C=C2[N+](=O)[O-])[N+](=O)[O-] | C9H6N2O4S
